US04820821
5.3 g (52.4 millimoles) of triethylamine were added dropwise to 10.0 g (48.2 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 25 ml (24.9 g, 285 millimoles) of ethyl isothiocyanate at room temperature, while stirring. After the addition was complete, the reaction mixture was diluted with 50 ml of acetone, stirred for a further 2 hours at room temperature and then filtered. The residue was discarded. The filtrate was evaporated down, and the solid which remained was recrystallized first from isopropanol and then from ethyl acetate/hexane. 1.0 g (8% of theory) of 1,4-dihydro-4-(ethylthiocarbamyl)-imino-1-phenylpyridazine was isolated as yellow crystals of melting point 134°-135° C.

reactant | triethylamine | 52.4 millimoles, 5.3 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 48.2 millimoles, 10.0 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | ethyl isothiocyanate | 285 millimoles, 25 ml, 24.9 g | C(C)N=C=S | C3H5NS
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1,4-dihydro-4-(ethylthiocarbamyl)-imino-1-phenylpyridazine | 1.0 g, 8% | C(C)NC(=S)C1C(NN(C=C1)C1=CC=CC=C1)=N | C13H16N4S
